US07659305B2
(2S,4S)-4-(3-Chloro-phenylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of the (2S,4S)-4-(3-chloro-phenylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (200 mg, 0.58 mmol) in THF (2 ml) was added a solution of LiOH.H2O (73 mg 1.74 mmol), and the reaction stirred at room temperature overnight. The solvent was concentrated in vacuo and the residual aqueous solution washed with DCM (2 ml). The aqueous was then adjusted to pH 5 with saturated aqueous citric acid and re-extracted with DCM (2×10 ml). These combined extracts were dried over MgSO4 and evaporated to give the title compound as a white foam (168 mg, 88%)

reactant | (2S,4S)-4-(3-chloro-phenylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.58 mmol, 200 mg | COC(=O)[C@H]1N(C[C@H](C1)NC1=CC(=CC=C1)Cl)C(=O)OC(C)(C)C | C17H23ClN2O4
reactant | LiOH.H2O | 1.74 mmol, 73 mg | O[Li].O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (2S,4S)-4-(3-Chloro-phenylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 168 mg, 88% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NC1=CC(=CC=C1)Cl)C(=O)O | C16H21ClN2O4
